US06077850
5-(Trifluoromethoxy)isatin (15.0 g, 65 mmol) and potassium hydroxide pellets (4 g) were mixed in water (35 mL) and cooled to 0° C. With vigorous stirring, a solution of 30% aqueous hydrogen peroxide (11.7 g), potassium hydroxide pellets (5.8 g), and water (80 mL) was added drop-wise keeping the temperature below 10° C. After stirring 1 hour at 0° C., glacial acetic acid (22 mL) was added dropwise, causing foaming and formation of a precipitate. The contents were stirred overnight and filtered to afford the 2-amino-5-trifluoromethoxybenzoic acid as an amber solid (12.5 g, 87%). A small amount was recrystallized from ethyl acetate-hexanes to afford amber needles for an analytical sample and the remaining compound was used without further purification: mp 142.5-144.2° C. 1H NMR (CDCl3, 300 MHz) 7.98 (s, 1H), 7.18 (d, 1H, J=8.0 Hz) 6.62 (d, 1H, J=8.0 Hz), 6.40 (brs, 2H). Anal. Calc'd for C8H6NO3F3 : C, 43.45; H, 2.73; N, 6.33. Found: C, 43.40; H, 2.65; N, 6.35.

reactant | 5-(Trifluoromethoxy)isatin | 65 mmol, 15.0 g | FC(OC=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen peroxide | 11.7 g | OO | H2O2
reactant | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
solvent | water | 35 mL | O | H2O
solvent | water | 80 mL | O | H2O
product | 2-amino-5-trifluoromethoxybenzoic acid | 12.5 g, 87% | NC1=C(C(=O)O)C=C(C=C1)OC(F)(F)F | C8H6F3NO3
